US07592373B2
3.25.e. 3-[5-(4-chlorophenyl)pyridin-2-yl]propynoic acid-(4-piperidin-1-ylmethylphenyl)amide
Prepared analogously to Example 2.3.f. from [5-(4-chlorophenyl)pyridin-2-yl]propynoic acid and 4-piperidin-1-ylmethylphenylamine. Yield: 0.2 g (48% of theory); C26H24ClN3O (M=429.95); calc.: molecular ion peak (M+H)+: 430/432; found: molecular ion peak (M+H)+: 430/432; Rf value: 0.4 (silica gel, dichloromethane/methanol/ammonia (90:10:0.1)).

reactant | [5-(4-chlorophenyl)pyridin-2-yl]propynoic acid | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC(=O)O | C14H8ClNO2
reactant | 4-piperidin-1-ylmethylphenylamine | N1(CCCCC1)CC1=CC=C(C=C1)N | C12H18N2
reactant | dichloromethane methanol ammonia | ClCCl.CO.N
product | 3-[5-(4-chlorophenyl)pyridin-2-yl]propynoic acid-(4-piperidin-1-ylmethylphenyl)amide | N1(CCCCC1)CC1=CC=C(C=C1)NC(C#CC1=NC=C(C=C1)C1=CC=C(C=C1)Cl)=O | C26H24ClN3O
